US04230707
3-Methyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid, methyl ester
A mixture of 11.27 g (0.066 mol) of 2-amino-4-methyl-3-thiophenecarboxylic acid, methyl ester (Chemische Berichte, Vol. 98, pages 3571-3577, 1965) and 11.3 g (0.066 mol) of 6-chloro-3-pyridinecarboxylic acid, methyl ester (Alfred Bader Chemical Company) is heated in a wax bath at 173°-190° C. for 220 minutes under nitrogen. The distillate is collected in a Dean-Stark trap attached to the reaction flask. The mixture is cooled, dissolved in hot methanol, cooled and 0.61 g of 3-methyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid, methyl ester is collected; mp 208°-209° C. after recrystallization from dichloromethane-methanol.

reactant | 2-amino-4-methyl-3-thiophenecarboxylic acid, methyl ester | 0.066 mol, 11.27 g | NC=1SC=C(C1C(=O)OC)C | C7H9NO2S
reactant | 6-chloro-3-pyridinecarboxylic acid, methyl ester | 0.066 mol, 11.3 g | ClC1=CC=C(C=N1)C(=O)OC | C7H6ClNO2
product | 3-Methyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid, methyl ester | CC1=CSC=2N=C3N(C(C21)=O)C=C(C=C3)C(=O)OC | C13H10N2O3S
